US06689779B2
Preparation of 2-Piperazin-1-yl-5-iodopyrimidine
In a mixture of acetic acid (5 ml), water (1 ml) and sulfuric acid (0.15 ml) was dissolved 2 g of 1-(2-pyrimidyl)piperazine which was then reacted with 0.86 g of iodine in the presence of 0.38 g of periodic acid at 100° C. for 6 hours with stirring. Chloroform was added to the reaction mixture, followed by washing with sodium hydrogen carbonate and brine. The organic layer thus obtained was dehydrated, filtered and concentrated under vacuum. Purification with column chromatography provided the title compound. 600 mg.

reactant | sulfuric acid | 0.15 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-(2-pyrimidyl)piperazine | 2 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | iodine | 0.86 g | II | I2
reactant | periodic acid | 0.38 g | I(=O)(=O)(=O)O | HIO4
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 1 ml | O | H2O
product | 2-Piperazin-1-yl-5-iodopyrimidine | N1(CCNCC1)C1=NC=C(C=N1)I | C8H11IN4
